US07678818B2
A mixture of 1 g of 4-methylthiosemicarbazide (9.51 mmol) and 1.565 g of ethyl-2-chloro-acetoacetate (9.51 mmol) in THF (20 ml) was stirred for 30 min at RT and then heated to reflux for 1 h. The yellow solid that precipitated was filtered off, washed with acetone and then dissolved in hot (95° C.) water. The precipitating sulfur was filtered off, the aqueous solution was cooled to 0° C., vigorously stirred and 5 ml of an aqueous ammonium hydroxide solution (25%) were added. A white precipitate formed and the suspension was stirred for an additional hour at RT. The precipitate was then filtered off and dried to give 1.04 g (60%) of 3-methyl-5-methylamino-1H-pyrazole-4-carboxylic acid ethyl ester as a white solid. MS (ISP) 184.1 (M+H)+.

reactant | 4-methylthiosemicarbazide | 9.51 mmol, 1 g | CNC(NN)=S | C2H7N3S
reactant | ethyl-2-chloro-acetoacetate | 9.51 mmol, 1.565 g | C(C)OC(C(C(=O)C)Cl)=O | C6H9ClO3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-methyl-5-methylamino-1H-pyrazole-4-carboxylic acid ethyl ester | 1.04 g, 60% | C(C)OC(=O)C=1C(=NNC1NC)C | C8H13N3O2
